US05164511
5-(1-Hydroxyethyl)-1-methyl-4-(phenylmethyl)thioimidazole (6.2 g. 25 mmol) in acetone (310 ml) and active manganese IV oxide (62 g), under a calcium chloride drying tube, were mechanically stirred and refluxed for 4 hours. The reaction mixture was cooled, filtered, washed with dichloromethane and evaporated under reduced pressure to provide crude product. Purification by flash chromatography starting with dichloromethane followed by 1%, 2% and 10% methanol in dichloromethane provided 1.3 g of 5-acetyl-1-methyl-4-(phenylmethyl)thioimidazole (21%) and 3.6 g of starting material 5-(1-hydroxyethyl)-1-methyl-4-(phenylmethyl)thioimidazole (58%). The yield based on the starting material consumed is 50%; mp 62° C.; -H NMR(300 MHz, CDCl3) δ 2.49 (s, 3H, CH3CO), 3.86 (s, 3H, NCH3), 4.45 (3, 2H, SCH2), 7.26-7.37 (m, 5H, ArH), 7.49(s, 1H, 1m H-2); 13C NMR(75 MHz, CDCl3) δ 30.4, 35.6, 37.2, 127.2, 128.1, 128.5, 129.0, 137.8, 142.0, 145.4, 188.4 (C=O) ppm; IR (CCl14) 3060, 2960, 1665 (C=O), 1550, 1515, 1250, 825, 730 cm-1, LRMS (ei) m/z 246 (M+ -SH, 100), 155 (23), 91 (C7H7+ 95), 81 (29), 42 (23); HRMS (ei) calc. 246.0827 obsd. 246.0826.

reactant | 5-(1-Hydroxyethyl)-1-methyl-4-(phenylmethyl)thioimidazole | 25 mmol, 6.2 g | OC(C)C1=C(N=CN1C)SCC1=CC=CC=C1 | C13H16N2OS
solvent | acetone | 310 ml | CC(=O)C | C3H6O
solvent | manganese | 62 g | [Mn] | Mn
product | 5-acetyl-1-methyl-4-(phenylmethyl)thioimidazole | 1.3 g, 21% | C(C)(=O)C1=C(N=CN1C)SCC1=CC=CC=C1 | C13H14N2OS
